US05856518
1-(1-t-Butoxycarbonylamino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane
An eggplant type flask was charged with 100 mg of 1-(1-amino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane which was subsequently dissolved in 1 ml of toluene. Thereto were added 300 mg of di-t-butyl dicarbonate and 0.2 ml of triethylamine while cooling in an ice bath, followed by 5 hours of stirring at room temperature. After completion of the reaction, the reaction solution was washed with saturated citric acid aqueous solution and saturated brine, dried over anhydrous sodium sulfate and, after removing insoluble matter by filtration, concentrated under a reduced pressure. Thereafter, the resulting residue was subjected to a silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain 112 mg (70%) of the title compound in the form of colorless oil.

reactant | 1-(1-amino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane | 100 mg | NC(C#N)C1(CC1)C(=O)OCC | C8H12N2O2
reactant | di-t-butyl dicarbonate | 300 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(1-t-Butoxycarbonylamino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane | 112 mg, 70% | C(C)(C)(C)OC(=O)NC(C#N)C1(CC1)C(=O)OCC | C13H20N2O4
